US06797726B1
In 14 mL of tetrahydrofuran is dissolved 1.36 g of 2-(2-benzo[b]thiophen-7-ylethoxy)-N,N-diethylacetamide. The solution is cooled to 5° C., and 14 mL of 1 mol/L solution of borane-tetrahydrofuran complex in tetrahydrofuran is dropwise added thereto. The resulting mixture is stirred at ambient temperature overnight, and then 5.00 mL of 6 mol/L hydrochloric acid is dropwise added, and the resulting mixture is heated under reflux for 30 minutes. After cooling, water and ethyl acetate are added to the reaction mixture, pH is adjusted to 9 with 5 mol/L aqueous solution of sodium hydroxide, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: chloroform:methanol=10:1) to obtain 1.10 g of N-[2-(2-benzo[b]thiophen-7-ylethoxy)ethyl]-N,N-diethylamine as an oily product.

reactant | 2-(2-benzo[b]thiophen-7-ylethoxy)-N,N-diethylacetamide | 1.36 g | S1C2=C(C=C1)C=CC=C2CCOCC(=O)N(CC)CC | C16H21NO2S
reactant | hydrochloric acid | 6 mol/L, 5.00 mL | Cl | ClH
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(2-benzo[b]thiophen-7-ylethoxy)ethyl]-N,N-diethylamine | 1.10 g | S1C2=C(C=C1)C=CC=C2CCOCCN(CC)CC | C16H23NOS
